US07705004B2
A solution of 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (275 mg, 0.804 mmol), 1-methyl-indazol-5-ylamine (118 mg, 0.803 mmol) and DIEA (0.350 mL, 2.01 mmol) in dioxane (7 mL) was stirred at 110° C. for 20 h. EtOAc and H2O were added. The organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give 2-chloro-N-(1-methyl-1H-indazol-5-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (316 mg).

reactant | 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 0.804 mmol, 275 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H9Cl2N3O2S
reactant | 1-methyl-indazol-5-ylamine | 0.803 mmol, 118 mg | CN1N=CC2=CC(=CC=C12)N | C8H9N3
reactant | DIEA | 2.01 mmol, 0.350 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | 2-chloro-N-(1-methyl-1H-indazol-5-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 316 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC=2C=C1C=NN(C1=CC2)C | C21H17ClN6O2S
